US04219495
A. Preparation of Acetic p-Toluenesulfonic Anhydride
Acetyl chloride (100 ml.; density=1.104 g./ml.) was charged into a suitable reaction flask containing 30 g. (0.158 mole) p-toluenesulfonic acid monohydrate. Vigorous evolution of HCl gas occurred immediately. An efficient HCl trap was attached to the reaction system. The reaction mixture was then heated to mild reflux (~55° C.) and was held to this temperature for 25 minutes. Heating was stopped and the reaction mixture allowed to drop to room temperature over 10-20 minutes with stirring. Vacuum (~20-50 mm) was applied cautiously to remove acetyl chloride without carryover. At the same time the mixture was heated gradually to 60° C. Distillation of acetyl chloride was complete in ~30 minutes with collection in an ice cold flask for reuse. The oil obtained was then subjected to vacuum (~5-10 mm) to remove the last traces of acetyl chloride and acetic acid at 37° C. A snow white solid then crystallized in about 30 minutes as the title product.

reactant | p-toluenesulfonic acid monohydrate | 0.158 mole | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | HCl | Cl | ClH
reactant | Acetyl chloride | 100 ml, 1.104 g | C(C)(=O)Cl | C2H3ClO
product | Acetic p-Toluenesulfonic Anhydride | C1(=CC=C(C=C1)S(=O)(=O)OC(C)=O)C | C9H10O4S
